US08802860B2
Preparation of diethyl-{1-[2-(methoxymethyl)-4-nitrophenyl]-2-oxo-1,2-dihydropyridin-3-yl}malonate
Under argon, a suspension of 49.3 g (513 mmol) of potassium tert-butanolate was introduced as initial charge at RT in 360 ml of dioxane, and 82.2 g (513 mmol) of diethyl malonate were added such that the temperature remained below 30° C. The reaction mixture was stirred for 1 h at RT, 3.4 g (11.0 mmol) of bis(2-pyridinecarboxylato)copper(II) complex and 49.7 g (147 mmol) of 3-bromo-1-[2-(methoxymethyl)-4-nitrophenyl]pyridin-2(1H)-one were added and the mixture was stirred for 4.5 h at 95° C. A further 2.0 g (6.5 mmol) of bis(2-pyridinecarboxylato)copper(II) complex were added and the reaction mixture was stirred overnight at 95° C. After cooling to RT, the mixture was diluted with 0.9 l of ethyl acetate, 1.8 l of 3N hydrochloric acid were added and the mixture was stirred for 15 min at RT. The aqueous phase was extracted with 0.9 l of ethyl acetate and the combined organic phases were washed with saturated aqueous sodium chloride solution. After drying over sodium sulphate, filtration and removal of the solvent on a rotary evaporator, the residue was dried in vacuo. This gave 115 g of crude product, which was reacted further without purification.

reactant | potassium tert-butanolate | 513 mmol, 49.3 g | C(C)(C)(C)[O-].[K+]
reactant | diethyl malonate | 513 mmol, 82.2 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 3-bromo-1-[2-(methoxymethyl)-4-nitrophenyl]pyridin-2(1H)-one | 147 mmol, 49.7 g | BrC=1C(N(C=CC1)C1=C(C=C(C=C1)[N+](=O)[O-])COC)=O | C13H11BrN2O4
solvent | dioxane | 360 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 0.9 l | C(C)(=O)OCC | C4H8O2
solvent | hydrochloric acid | 3N, 1.8 l | Cl | ClH
product | diethyl-{1-[2-(methoxymethyl)-4-nitrophenyl]-2-oxo-1,2-dihydropyridin-3-yl}malonate | C(C)OC(C(C(=O)OCC)C=1C(N(C=CC1)C1=C(C=C(C=C1)[N+](=O)[O-])COC)=O)=O | C20H22N2O8
